US08133952B2
Ethylene Urea—Ethylene Glycol—Glyoxal Condensate (EEG):
To a 1-liter 3-necked flask equipped with a mechanical stirrer, reflux condenser, and thermometer were charged 102 grams of ethylene urea (40 wt %), 39 grams of ethylene glycol, and 97 grams of glyoxal (40 wt %). Initial pH of the mixture was 4.3. The mixture was stirred, heated to 70° C., and held at this temperature for four hours. The product (EEG) was a clear yellow liquid with NV %=43.6%, pH=3.9 and infinite WD. The composition was stable for at least 3 months (clear, no gellation, infinite WD).

reactant | ethylene urea | 102 grams | C1CNC(=O)N1 | C3H6N2O
reactant | glyoxal | 97 grams | C(=O)C=O | C2H2O2
solvent | ethylene glycol | 39 grams | C(CO)O | C2H6O2
product | Ethylene Urea Ethylene Glycol Glyoxal | C1CNC(=O)N1.C(CO)O.C(=O)C=O | InChI=1S/C3H6N2O.C2H6O2.C2H2O2/c6-3-4-1-2-5-3;2*3-1-2-4/h1-2H2,(H2,4,5,6);3-4H,1-2H2;1-2H
